US08809342B2
To a −78° C. solution of 2-(4-(trifluoromethyl)phenyl)pyrimidine-5-carbaldehyde (1.0 g, 3.96 mmol) in THF (6 mL) was added cyclopentylmagnesium bromide (2.97 mL of a 2.0M solution in THF, 5.95 mmol). The solution was stirred at 0° C. for two hours. The mixture was quenched with saturated aqueous NH4Cl, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The crude residue was purified by silica gel chromatography to give cyclopentyl(2-(4-(trifluoromethyl)phenyl)pyrimidin-5-yl)methanol (1.0 g) as a red oil.

reactant | 2-(4-(trifluoromethyl)phenyl)pyrimidine-5-carbaldehyde | 3.96 mmol, 1.0 g | FC(C1=CC=C(C=C1)C1=NC=C(C=N1)C=O)(F)F | C12H7F3N2O
reactant | cyclopentylmagnesium bromide | C1(CCCC1)[Mg]Br
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | cyclopentyl(2-(4-(trifluoromethyl)phenyl)pyrimidin-5-yl)methanol | 1.0 g | C1(CCCC1)C(O)C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F | C17H17F3N2O
